US08283326B2
4-(β-D-glucopyranos-1-yl)-2-(4-hydroxy-benzyl)-1-methyl-benzene
A solution of 2-(4-acetoxybenzyl)-1-methyl-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-benzene (1.8 g) in a mixture of methanol (30 mL) and tetrahydrofuran (15 mL) is treated with aqueous potassium hydroxide solution (4 mol/L, 3.8 mL). The reaction solution is stirred at ambient temperature for 30 min and then neutralized with hydrochloric acid (1 mol/L). The resulting mixture is concentrated under reduced pressure, diluted with aqueous sodium bicarbonate solution and extracted with ethyl acetate. The combined organic phases are dried (sodium sulphate) and concentrated.

reactant | 2-(4-acetoxybenzyl)-1-methyl-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-benzene | 1.8 g | C(C)(=O)OC1=CC=C(CC2=C(C=CC(=C2)[C@]2(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)C)C=C1 | C30H34O12
reactant | potassium hydroxide | 4 mol/L, 3.8 mL | [OH-].[K+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(β-D-glucopyranos-1-yl)-2-(4-hydroxy-benzyl)-1-methyl-benzene | O[C@]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC(=C(C=C1)C)CC1=CC=C(C=C1)O | C20H24O7
